US07176312B2
Phenol coupling: A 10 mL flame-dried Schlenk flask equipped with a magnetic stir bar was charged with 2-chloro-6-(4-methoxybenzylamino)-9-isopropylpurine (0.193 g, 0.5 mmol, 1.0 equiv), 4-methylphenol (0.081 g, 0.75 mmol, 1.5 equiv), Pd2(dba)3 (0.0069 g, 0.0075 mmol, 0.015 equiv.), ligand 1 (0.0051 g, 0.015 mmol, 0.03 equiv.) and KOtBu (0.112 g, 1.0 mmol, 2.0 equiv.). The Schlenk flask was evacuated and backfilled with argon and charged with anhydrous 1,4-dioxane (2.0 mL). The reaction was stirred under argon at 90° C. and monitored by TLC. When the reaction was complete after 8 hours, the solvent was removed in vacuo and the reaction crude was purified by flash column chromatography (2% methanol in dichloromethane) to afford desired 2-(4-methylphenoxy)-6-(4-methoxy-benzylamino)-9-isopropylpurine (180 mg, 90%): 1H NMR (400 MHz, CDCl3) δ 1.53 (d, 6H, J=6.8 Hz), 2.37 (s, 3H), 3.79 (s, 3H), 4.54 (br, 2H), 4.71 (m, 1H, J=6.8 Hz), 6.35 (br, 1H), 6.81 (d, 2H, J=8.4 Hz), 7.10–7.18 (m, 6H), 7.65 (s, 1H); HRMS (MALDI-FTMS) [MH+] C23H26N5O2 404.2081, found: 404.2080.

reactant | 2-chloro-6-(4-methoxybenzylamino)-9-isopropylpurine | 0.5 mmol, 0.193 g, 1.0 equiv | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NCC1=CC=C(C=C1)OC | C16H18ClN5O
reactant | 4-methylphenol | 0.75 mmol, 0.081 g, 1.5 equiv | CC1=CC=C(C=C1)O | C7H8O
reactant | KOtBu | 1.0 mmol, 0.112 g, 2.0 equiv. | CC(C)(C)[O-].[K+]
catalyst | Pd2(dba)3 | 0.0075 mmol, 0.0069 g, 0.015 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-methylphenoxy)-6-(4-methoxy-benzylamino)-9-isopropylpurine | 180 mg, 90% | CC1=CC=C(OC2=NC(=C3N=CN(C3=N2)C(C)C)NCC2=CC=C(C=C2)OC)C=C1 | C23H25N5O2
